US09370515B2
Preparation of 6-chloro-3-(5,6-dimethoxy-1-tosyl-1H-indol-2-yl)imidazo[1,2-b]pyridazine
To a solution of 5,6-dimethoxy-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1-tosyl-1H-indole (120 mg, 0.262 mmol, 1.0 equiv) in acetonitrile (3.41 mL) was added 6-chloro-3-iodoimidazo[1,2-b]pyridazine (95 mg, 0.341 mmol, 1.3 equiv), palladium catalyst (25 mg, 0.0341 mmol, 0.1 equiv) and sodium carbonate (3.41 mL, 1.0 M, 10.0 equiv). The solution was stirred at 150° C. in the microwave for 10 minutes. Purification using column chromatography gave 80 mg of the yellow solid, 63%.

reactant | 5,6-dimethoxy-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1-tosyl-1H-indole | 0.262 mmol, 120 mg, 1.0 equiv | COC=1C=C2C=C(N(C2=CC1OC)S(=O)(=O)C1=CC=C(C)C=C1)B1OC(C(O1)(C)C)(C)C | C23H28BNO6S
reactant | 6-chloro-3-iodoimidazo[1,2-b]pyridazine | 0.341 mmol, 95 mg, 1.3 equiv | ClC=1C=CC=2N(N1)C(=CN2)I | C6H3ClIN3
reactant | sodium carbonate | 1.0 M, 3.41 mL, 10.0 equiv | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 3.41 mL | C(C)#N | C2H3N
catalyst | palladium | 0.0341 mmol, 25 mg, 0.1 equiv | [Pd] | Pd
product | 6-chloro-3-(5,6-dimethoxy-1-tosyl-1H-indol-2-yl)imidazo[1,2-b]pyridazine | 80 mg | ClC=1C=CC=2N(N1)C(=CN2)C=2N(C1=CC(=C(C=C1C2)OC)OC)S(=O)(=O)C2=CC=C(C)C=C2 | C23H19ClN4O4S
